US07696347B2
(14A-1) Dimethyl-(4-tributylstannylmethoxybutyl)amine
To a mixture of sodium hydride (72%, 232 mg, 7.0 mmol) and tetrahydrofuran (20 ml) was added 4-(dimethylamino)-1-butanol (0.82 g, 7.0 mmol) at 0° C. (external temperature), and the reaction mixture was stirred at 45° C. for 20 minutes. Then, the reaction mixture was cooled at 0° C. (external temperature). To the reaction mixture was added dropwise a mixture of tributyl-iodomethyl-tin (2.0 g, 4.6 mmol) and N,N-dimethylformamide (20 ml) at the same temperature. Then, the reaction mixture was stirred at 45° C. for 30 minutes. The reaction mixture was brought to room temperature, water and ethyl acetate were added to the reaction mixture, and the organic layer was separated. The organic layer was washed with water and an aqueous saturated sodium chloride solution, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethylacetate=20:1, NH silica gel) to obtain the title compound (1.4 g, 3.3 mmol, 70%).

reactant | sodium hydride | 7.0 mmol, 232 mg | [H-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 4-(dimethylamino)-1-butanol | 7.0 mmol, 0.82 g | CN(CCCCO)C | C6H15NO
reactant | tributyl-iodomethyl-tin | 4.6 mmol, 2.0 g | C(CCC)[Sn](CI)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Dimethyl-(4-tributylstannylmethoxybutyl)amine | 3.3 mmol, 1.4 g, 70% | CN(CCCCOC[Sn](CCCC)(CCCC)CCCC)C | InChI=1S/C7H16NO.3C4H9.Sn/c1-8(2)6-4-5-7-9-3;3*1-3-4-2;/h3-7H2,1-2H3;3*1,3-4H2,2H3;
